US07253171B2
(S)-2-Amino-3-(2′-cyanobiphenyl-4-yl) propionic acid methyl ester hydrochloride
3 ml of a saturated solution of HCl in dioxane were added to a solution of (S)-2-tert-butoxycarbonylamino-3-(2′-cyano-biphenyl-4-yl) propionic acid methyl ester (513 mg, 1.35 mmol) in dioxane (4 ml) and the resulting mixture was stirred at room temperature for 3 h. The solvent was concentrated in vacuo to yield the title compound (425 mg, 99%) that was used in the next step without further purification.

reactant | HCl | Cl | ClH
reactant | (S)-2-tert-butoxycarbonylamino-3-(2′-cyano-biphenyl-4-yl) propionic acid methyl ester | 1.35 mmol, 513 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)NC(=O)OC(C)(C)C)=O | C22H24N2O4
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-3-(2′-cyanobiphenyl-4-yl) propionic acid methyl ester hydrochloride | 425 mg, 99% | Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)N)=O | InChI=1S/C17H16N2O2.ClH/c1-21-17(20)16(19)10-12-6-8-13(9-7-12)15-5-3-2-4-14(15)11-18;/h2-9,16H,10,19H2,1H3;1H/t16-;/m0./s1
